US07498333B2
A mixture of 5-amino-3-methyl-isoxazole-4-carboxylic acid amide (10 g, 70 mmol) in 25 ml of isovaleric anhydride was stirred at 110-145° C. for 1 h. The brown solution was diluted with hexane (500 ml) and cooled down. The precipitated gum was separated from the mixture and washed with hexane, dried in vacuo. 3-Methyl-5-(3-methyl-butyryl)-isoxazole-4-carboxylic acid amide was obtained as a yellow gum. Further used without purification in method 42.

reactant | 5-amino-3-methyl-isoxazole-4-carboxylic acid amide | 70 mmol, 10 g | NC1=C(C(=NO1)C)C(=O)N | C5H7N3O2
reactant | isovaleric anhydride | 25 ml | C(CC(C)C)(=O)OC(CC(C)C)=O | C10H18O3
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 3-Methyl-5-(3-methyl-butyryl)-isoxazole-4-carboxylic acid amide | CC1=NOC(=C1C(=O)N)C(CC(C)C)=O | C10H14N2O3
